* Subcircuit f100102
.subckt f100102 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ 
* c:\fossee\esim\library\subcircuitlibrary\f100102\f100102.cir
* u2  net-_u1-pad14_ net-_u1-pad15_ net-_u2-pad3_ d_or
* u6  net-_u2-pad3_ net-_u15-pad2_ net-_u1-pad13_ d_or
* u3  net-_u1-pad16_ net-_u1-pad17_ net-_u3-pad3_ d_or
* u7  net-_u3-pad3_ net-_u15-pad2_ net-_u1-pad10_ d_or
* u4  net-_u1-pad20_ net-_u1-pad21_ net-_u4-pad3_ d_or
* u8  net-_u4-pad3_ net-_u15-pad2_ net-_u1-pad9_ d_or
* u5  net-_u1-pad22_ net-_u1-pad23_ net-_u5-pad3_ d_or
* u9  net-_u5-pad3_ net-_u15-pad2_ net-_u1-pad5_ d_or
* u10  net-_u1-pad13_ net-_u1-pad12_ d_inverter
* u11  net-_u1-pad10_ net-_u1-pad11_ d_inverter
* u12  net-_u1-pad9_ net-_u1-pad8_ d_inverter
* u13  net-_u1-pad5_ net-_u1-pad4_ d_inverter
* u14  net-_u1-pad24_ net-_u1-pad1_ net-_u14-pad3_ d_or
* u15  net-_u14-pad3_ net-_u15-pad2_ net-_u1-pad2_ d_or
* u16  net-_u1-pad2_ net-_u1-pad3_ d_inverter
* u17  net-_u1-pad19_ net-_u15-pad2_ d_buffer
a1 [net-_u1-pad14_ net-_u1-pad15_ ] net-_u2-pad3_ u2
a2 [net-_u2-pad3_ net-_u15-pad2_ ] net-_u1-pad13_ u6
a3 [net-_u1-pad16_ net-_u1-pad17_ ] net-_u3-pad3_ u3
a4 [net-_u3-pad3_ net-_u15-pad2_ ] net-_u1-pad10_ u7
a5 [net-_u1-pad20_ net-_u1-pad21_ ] net-_u4-pad3_ u4
a6 [net-_u4-pad3_ net-_u15-pad2_ ] net-_u1-pad9_ u8
a7 [net-_u1-pad22_ net-_u1-pad23_ ] net-_u5-pad3_ u5
a8 [net-_u5-pad3_ net-_u15-pad2_ ] net-_u1-pad5_ u9
a9 net-_u1-pad13_ net-_u1-pad12_ u10
a10 net-_u1-pad10_ net-_u1-pad11_ u11
a11 net-_u1-pad9_ net-_u1-pad8_ u12
a12 net-_u1-pad5_ net-_u1-pad4_ u13
a13 [net-_u1-pad24_ net-_u1-pad1_ ] net-_u14-pad3_ u14
a14 [net-_u14-pad3_ net-_u15-pad2_ ] net-_u1-pad2_ u15
a15 net-_u1-pad2_ net-_u1-pad3_ u16
a16 net-_u1-pad19_ net-_u15-pad2_ u17
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u2 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u6 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u3 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u7 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u4 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u8 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u5 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u9 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u14 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u15 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u17 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends f100102